US07825260B2
Preparation of [(R)-3-(3-Amino-4-hydroxy-phenyl)-1-(di-tert-butoxy-phosphoryloxymethyl)-1-methyl-propyl]-carbamic acid tert-butyl ester
Under an atmosphere of argon, a solution of [(R)-3-(4-Benzyloxy-3-nitro-phenyl)-1-(di-tert-butoxy-phosphoryloxymethyl)-1-methyl-propyl]-carbamic acid tert-butyl ester (5.36 g, 8.6 mmol) in ethanol (250 mL) was treated with 10% palladium on charcoal (1.22 g). Argon was replaced by hydrogen and the reaction was stirred for 16 hours at RT. After filtration and removal of the solvent in vacuum, the residue was purified by silica gel column chromatography (dichloromethane/methanol 10/1) yielding the title compound as a colorless solid. 1H-NMR (CD3OD): δ=6.61-6.57 (m; 2H), 6.41 (dd; 1H), 6.22 (s; 1H), 4.55 (s; 1H), 4.41/3.93 (2m; 2H), 2.43 (m; 1H), 2.05 (m; 1H), 1.70 (m; 1H), 1.48 (s; 18H), 1.44 (s; 9H), 1.28 (s; 3H); MS (ESI+): 503.4 [M+H]+

reactant | [(R)-3-(4-Benzyloxy-3-nitro-phenyl)-1-(di-tert-butoxy-phosphoryloxymethyl)-1-methyl-propyl]-carbamic acid tert-butyl ester | 8.6 mmol, 5.36 g | C(C)(C)(C)OC(N[C@@](CCC1=CC(=C(C=C1)OCC1=CC=CC=C1)[N+](=O)[O-])(C)COP(=O)(OC(C)(C)C)OC(C)(C)C)=O | C31H47N2O9P
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 250 mL | C(C)O | C2H6O
catalyst | palladium on charcoal | 1.22 g | [Pd] | Pd
product | [(R)-3-(3-Amino-4-hydroxy-phenyl)-1-(di-tert-butoxy-phosphoryloxymethyl)-1-methyl-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@](CCC1=CC(=C(C=C1)O)N)(C)COP(=O)(OC(C)(C)C)OC(C)(C)C)=O | C24H43N2O7P
